### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Paths): add lemma `SimpleGraph.Walk.IsPath.mem_support_iff_exists_append`

### PR DESCRIPTION
**Pull request by IvanRenison**
This contribution was created as part of the Utrecht Summerschool "Formalizing Mathematics in Lean" in July 2025.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 1]
```diff
@@ -238,6 +238,20 @@ theorem IsPath.concat {p : G.Walk u v} (hp : p.IsPath) (hw : w ∉ p.support)
...
+  · intro hw
+    obtain ⟨q, r, hqr⟩ := p.mem_support_iff_exists_append.mp hw
+    have hqr' : (q.append r).IsPath := by
+      rw [← hqr]
+      exact hp
+    have hq : q.IsPath := hqr'.of_append_left
+    have hr : r.IsPath := hqr'.of_append_right
+    exact ⟨q, r, hq, hr, hqr⟩
+  · intro ⟨q, r, hq, hr, hqr⟩
+    exact p.mem_support_iff_exists_append.mpr ⟨q, r, hqr⟩
```
Comment (pimotte) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
  refine ⟨fun hw ↦ ?_, fun ⟨q, r, hq, hr, hqr⟩ ↦ p.mem_support_iff_exists_append.mpr ⟨q, r, hqr⟩⟩
  obtain ⟨q, r, hqr⟩ := p.mem_support_iff_exists_append.mp hw
  have : (q.append r).IsPath := hqr ▸ hp
  exact ⟨q, r, this.of_append_left, this.of_append_right, hqr⟩
```

**Review by pimotte — COMMENTED** [review]
Thanks! Left a proposal for some golfing, definition looks good to me!

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 2]
```diff
@@ -238,6 +238,20 @@ theorem IsPath.concat {p : G.Walk u v} (hp : p.IsPath) (hw : w ∉ p.support)
     (h : G.Adj v w) : (p.concat h).IsPath :=
   (concat_isPath_iff h).mpr ⟨hp, hw⟩
 
+lemma IsPath.mem_support_iff_exists_append {u v w : V} {p : G.Walk u v} (hp : p.IsPath) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
lemma IsPath.mem_support_iff_exists_append {p : G.Walk u v} (hp : p.IsPath) :
```

**Review by b-mehta — COMMENTED** [review]
Nice, thanks!

bors merge
